US08080542B2
4-Benzyl-N-(2-fluoro-4-formylphenyl)benzamide
A mixture of 4-benzyl-N-(2-fluoro-4-(hydroxymethyl)phenyl)benzamide (200 mg, 0.60 mmol), 4-methylmorpholine N-oxide (140 mg, 1.2 mmol), and 4 A molecular sieves (1 g) in 10 ml of CH3CN was treated with tetrapropylammonium perruthnate (10 mg, 0.03 mmol) and the resulting mixture was stirred at room temperature for 12 hours. The solids were filtered and the filtrated was concentrated. The residue was purified on ISCO system (80% hexane in dichloromethane) to give a pure product as a white crystalline: 1H NMR (400 MHz, CDCl3) δ 9.93 (s, 1H), 8.80 (t, J=8.0 Hz, 1H), 8.25 (s, 1H), 7.84 (d, J=7.2 Hz, 2H), 7.74 (d, J=8.4 Hz, 1H), 7.69 (d, J=10.8 Hz, 1H), 7.19-7.37 (m, 6H), 4.07 (s, 2H).

reactant | 4-benzyl-N-(2-fluoro-4-(hydroxymethyl)phenyl)benzamide | 0.60 mmol, 200 mg | C(C1=CC=CC=C1)C1=CC=C(C(=O)NC2=C(C=C(C=C2)CO)F)C=C1 | C21H18FNO2
reactant | 4-methylmorpholine N-oxide | 1.2 mmol, 140 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrapropylammonium | 0.03 mmol, 10 mg | C(CC)[N+](CCC)(CCC)CCC
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | 4-Benzyl-N-(2-fluoro-4-formylphenyl)benzamide | C(C1=CC=CC=C1)C1=CC=C(C(=O)NC2=C(C=C(C=C2)C=O)F)C=C1 | C21H16FNO2
